Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fever
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ w leukopenia undergoing cancer workup s/p open AAA repair 
(___) for 10cm infrarenal aorta here with fevers (101.2) and 
tachycardia to the 120's. The patient reports a ___ day history 
of chills and malaise. He was feeling fatigued since surgery. 
His ___ noticed tachycardia ___ and he was sent to his PCP who 
then transferred him to ___ ED. He was found to be febrile and 
was started on cefepime, and had a noncon CT that was concerning 
for possibly some stranding around the aorta. He was then 
transferred here for further care. 

Post operatively the patient had urinary retention and he was 
discharged with a catheter. The foley was discontinued and had 
continued with his Flomax. He is reporting some dysuria. He also 
has been struggling with BBBPR from his hemorrhoids which have 
slowed over the past few days. He also reports some shortness of 
breath that he attributes to his deconditioning since his 
surgery. Denies any abdominal pain and his back pain has 
resolved since surgery.
 
Past Medical History:
HTN
Aorto-femoral bypass
Pancytopenia
Abdominal Aortic Aneurysm
 
Social History:
___
Family History:
Denies FH of AAA
 
Physical Exam:
#ERROR!
ADMISSION PHYSICAL EXAM
#ERROR!
VITALS: T 100.4 HR 109 BP 123/71 RR 16 SpO2 97%2L 
___: Appears chronically and acutely ill. Interacting
appropriately. Moving slowly in bed. 
HEENT: Sclera anicteric. Dry MM. No pharyngeal erythema or
exudate. 
CV: Tachycardic. Regular rhythm. Soft heart sounds. No m/r/g. No
JVD. 
RESP: Tachypneic. Using some accessory  muscles. Able to 
complete
sentences. Nasal cannula in place. CTAB. No w/r/r. Good air
movement. 
GI: Schaphoid. Soft. Non-tender. Non-distended. +BS. 
GU: No foley in place.
RECTAL: Pt asked to defer exam due to tender hemorrhoids. 
MSK: Muscle wasting present. 
SKIN: Incision c/d/i. No erythema. No rash. Skin anicteric. 
NEURO: AAOx3. Moving slowly but moves all four extremities. 
PSYCH: Appropriate affect. 

#ERROR!
DISCHARGE PHYSICAL EXAM
#ERROR!
VITALS: Tm 98.2 HR 98 BP 149/73 RR 18 SPO2 97% RA
___: Appears chronically ill. Interacting
appropriately. More active today.  
HEENT: Sclera anicteric. Dry MM. 
CV: RRR. Soft heart sounds. No m/r/g. 
RESP:  CTAB. NO w/r/r. 
GI: Schaphoid. Soft. NT ND. +BS 
MSK: Muscle wasting present. 
SKIN: Incision c/d/i. No erythema. No rash. Skin anicteric. 
NEURO: AAOx3. Moving slowly but moves all four extremities.
 
Pertinent Results:
#ERROR!
Admission labs
#ERROR!
___ 10:05AM BLOOD WBC-5.7# RBC-2.59* Hgb-6.6* Hct-21.3* 
MCV-82 MCH-25.5* MCHC-31.0* RDW-19.5* RDWSD-58.1* Plt ___
___ 10:05AM BLOOD Neuts-74.5* Lymphs-4.2* Monos-19.7* 
Eos-0.0* Baso-0.4 Im ___ AbsNeut-4.23# AbsLymp-0.24* 
AbsMono-1.12* AbsEos-0.00* AbsBaso-0.02
___ 10:05AM BLOOD ___ PTT-29.4 ___
___ 10:05AM BLOOD Glucose-113* UreaN-21* Creat-1.2 Na-137 
K-4.4 Cl-102 HCO3-17* AnGap-18*
___ 08:57PM BLOOD Lactate-1.2

#ERROR!
Pertinent labs
#ERROR!
___ 03:35PM BLOOD WBC-4.4 RBC-3.09* Hgb-8.0* Hct-25.3* 
MCV-82 MCH-25.9* MCHC-31.6* RDW-18.8* RDWSD-56.1* Plt ___
___ 08:30AM BLOOD WBC-2.1*# RBC-2.85* Hgb-7.5* Hct-23.5* 
MCV-83 MCH-26.3 MCHC-31.9* RDW-18.7* RDWSD-56.3* Plt ___
___ 08:10AM BLOOD WBC-1.8* RBC-3.24* Hgb-8.6* Hct-26.7* 
MCV-82 MCH-26.5 MCHC-32.2 RDW-17.9* RDWSD-53.6* Plt ___
___ 08:30AM BLOOD Neuts-47.9 Lymphs-16.4* Monos-31.9* 
Eos-1.4 Baso-1.0 Im ___ AbsNeut-0.99*# AbsLymp-0.34* 
AbsMono-0.66 AbsEos-0.03* AbsBaso-0.02
___ 08:10AM BLOOD Neuts-46 Bands-1 ___ Monos-20* 
Eos-1 Baso-1 ___ Myelos-0 AbsNeut-0.85* 
AbsLymp-0.56* AbsMono-0.36 AbsEos-0.02* AbsBaso-0.02
___ 03:35PM BLOOD Glucose-105* UreaN-20 Creat-1.2 Na-136 
K-4.1 Cl-102 HCO3-19* AnGap-15
___ 08:10AM BLOOD Glucose-103* UreaN-19 Creat-0.9 Na-139 
K-3.7 Cl-103 HCO3-21* AnGap-15
___ 03:35PM BLOOD ALT-66* AST-43* AlkPhos-115 TotBili-0.6
___ 08:10AM BLOOD Calcium-9.0 Phos-2.6* Mg-2.0
___ 09:02AM BLOOD ___ pO2-184* pCO2-31* pH-7.45 
calTCO2-22 Base XS-0
___ 06:02PM BLOOD Lactate-2.6*
___ 09:02AM BLOOD Lactate-1.0

#ERROR!
Discharge labs
#ERROR!
___ 06:15AM BLOOD WBC-2.4* RBC-3.24* Hgb-8.5* Hct-27.3* 
MCV-84 MCH-26.2 MCHC-31.1* RDW-18.1* RDWSD-55.8* Plt ___
___ 06:15AM BLOOD Neuts-63 Bands-0 Lymphs-17* Monos-14* 
Eos-5 Baso-1 ___ Myelos-0 AbsNeut-1.51* 
AbsLymp-0.41* AbsMono-0.34 AbsEos-0.12 AbsBaso-0.02
___ 06:15AM BLOOD Glucose-95 UreaN-22* Creat-0.9 Na-139 
K-4.2 Cl-101 HCO3-23 AnGap-15
___ 06:15AM BLOOD ALT-75* AST-48* AlkPhos-105 TotBili-0.2
___ 06:15AM BLOOD Calcium-9.2 Phos-2.7 Mg-2.1

#ERROR!
Studies
#ERROR!
- CXR (___): IMPRESSION: No acute cardiopulmonary process. 

- CTA abd/pelvis (___): IMPRESSION: 1. Mild left-sided
hydronephrosis without obstructing stone and multiple areas 
of hypoenhancement in the left kidney is concerning for
pyelonephritis. 2. Status post open repair of an infrarenal
abdominal aortic aneurysm.  The graft is widely patent.  There 
is
mild stranding surrounding the aneurysm sac in the pelvis, which
may be reactive/postsurgical. 3. Contrast is seen in the native
left common femoral, external and common iliac artery which is
likely due to retrograde flow.  There is a residual 2.5 
x 1.6 cm left common iliac bifurcation aneurysm. 4. Extensive
diverticulosis without evidence of diverticulitis. 

- CTA Torso ___: IMPRESSION: 1. Status post aortobifemoral
graft which is widely patent.  There is a saccular infrarenal
aortic aneurysm measuring 6.3 x 9.0 cm (series 3:178) with dense
material within the periphery of the aneurysmal sac, all of 
which
is unchanged as compared to outside hospital CT abdomen and
pelvis ___.  An element of intramural hematoma cannot 
be
ruled out. 2. There is a short segmental or longitudinally
oriented dissection of the mid descending thoracic aorta
extending about 1.8 cm (series 3:78 to 87, series 601:53). 3.
Occlusion of the right popliteal artery and a right distal
femoral to right tibioperoneal trunk graft which is patent

#ERROR!
Microbiology 
#ERROR!
OSH Cultures
- Urine culture and blood culture: positive for klebsiella

Blood cultures
- ___: NGTD
- ___: NGTD

Urine cultures
- ___: negative 

 
Brief Hospital Course:
ASSESSMENT:
#ERROR!
___ yo man with history of recent abdominal aortic aneurysm 
repair, hyperntesion, and glaucoma with recent onset of fevers, 
malaise, urinary retention requiring foley placement (s/p 
removal), and dysuria with findings on CT concerning for 
pyelonephritis found to have urine and blood cultures positive 
for pan sensitive Klebsiella at ___ where 
he initially presented. Transferred to ___ for further 
management. 

ACUTE/ACTIVE PROBLEMS:
#ERROR!
# Sepsis ___ klebsiella pyelonephritis and bacteremia. Growing 
klebsiella pneumonia in his blood and urine at the OSH. CT Scan 
at ___ concerning for pyelonephritis with perinephric 
stranding. Of note, patient with recent foley use and 
dysuria/fevers since it was removed, which was likely the source 
of his infection. He was initially started on vancomycin and 
cefepime which was narrowed to ceftriaxone. He was eventually 
transitioned to PO ciprofloxacin on ___ for a total of 14 days 
of antibiotics (start ___ ___, end date ___ AM dose. On 
discharge, urinating well with no retention, no longer with 
dysuria and afebrile. Feels back to baseline. 

# Anemia 
# Hx of pancytopenia 
Patient received s/p 2 units total pRBCs on ___ and ___ due to 
unexplained anemia and severe fatigue. Patient with history of 
pancytopenia that was supposed to be worked up with outpatient 
hematologist. He was neutropenic during his admission with ANC 
counts >500. His discharge labs were WBC 2.4, Hgb 8.5, Plt 194, 
ANC 1.51K. 

# Coagulopathy
#Transaminitis
Patient with new elevation in INR and not on anticoagulation, 
thought to be ___ sepsis. This did not resolve by discharge, so 
he will need repeat labs before seeing his PCP. Discharge INR: 
1.2, ALT 75, AST 48. 

# Non-anion gap metabolic acidosis 
Patient with chronic non-anion gap in past with unclear 
etiology. Possibly secondary to RTA vs diarrhea before 
admission. Will need repeat labs with PCP. 

# Urinary retention
Patient with ongoing urinary retention since AAA repair in ___. He was continued on home tamsulosin 0.4 mg PO daily and 
did not require foley placement or straight cath. 

# Emphysema on CT scan
Incidental finding. Patient not with known diagnosis of COPD but 
told him of findings and counseled him on smoking cessation. 
SpO2 goals were 88-92%. 

CHRONIC/STABLE PROBLEMS:
#ERROR!
# HTN. Initially held home lisinopril and metoprolol succinate 
due to sepsis. Patient was restarted on fractionated metoprolol 
on hospital day #3 after he was tachycardic in ___ 
persistently and was restarted on lisinopril on hospital day #4. 


# GERD. Continued home omeprazole 40 mg PO daily

# HLD. Continued simvastatin 20 mg PO daily and ASA 81 mg PO 
daily

# Cataracts. Home eye drops were held. 

Transitional issues
#ERROR!
[] CT scan showing extensive panlobular emphysematous changes in 
lung parenchyma. Consider outpatient PFTs and smoking cessation 
counseling. 
[] Follow up pancytopenia workup, discharge ANC 1500
[] Follow up LFTs in ___ weeks, if still elevated consider work 
up
[] Repeat CBC, liver panel, and Chem-7 to document 
stability/improvement on ___
[] Continue ciprofloxacin 500 mg BID with stop date ___ (14 
days total)
[] CT scan showed diverticulosis. Patient counseled on dietary 
changes.
Contact: HCP - Daughter, ___ ___, 
Alternative - ___ 
Code status: Full code, confirmed 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Bisacodyl 10 mg PO DAILY:PRN constipation 
3. Omeprazole 40 mg PO DAILY 
4. OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - Moderate 

5. Senna 8.6 mg PO BID:PRN constipation 
6. Tamsulosin 0.4 mg PO QHS 
7. Lisinopril 20 mg PO DAILY 
8. Metoprolol Succinate XL 25 mg PO DAILY 
9. ofloxacin 0.3 % ophthalmic 2 drops as previously used 
10. Prolensa (bromfenac) 0.07 % ophthalmic 2 drops as previously 
used 
11. Simvastatin 20 mg PO QPM 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl [Cipro] 500 mg 1 tablet(s) by mouth every 
twelve (12) hours Disp #*20 Tablet Refills:*0 
2.  Hydrocortisone (Rectal) 2.5% Cream ___ID 
RX *hydrocorTISone  1 pea size amount rectally twice a day Disp 
#*1 Tube Refills:*0 
3.  Witch ___ 50% Pad ___SDIR 
RX *witch ___ [Hemorrhoidal Hygiene] 50 % Apply 1 pad every 
four (4) hours Disp #*100 Pad Refills:*0 
4.  Aspirin 81 mg PO DAILY  
5.  Bisacodyl 10 mg PO DAILY:PRN constipation  
6.  Lisinopril 20 mg PO DAILY  
7.  Metoprolol Succinate XL 25 mg PO DAILY  
8.  ofloxacin 0.3 % ophthalmic 2 DROPS AS PREVIOUSLY USED  
9.  Omeprazole 40 mg PO DAILY  
10.  Prolensa (bromfenac) 0.07 % ophthalmic 2 drops as 
previously used  
11.  Senna 8.6 mg PO BID:PRN constipation  
12.  Simvastatin 20 mg PO QPM  
13.  Tamsulosin 0.4 mg PO QHS  
14.Outpatient Lab Work
ICD-10 codes: E87.2, R74.0, ___.___ 
Labs: CBC, BMP, LFTs, ___
Date: ___
Please fax to ___, MD at ___

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
Primary diagnoses
#ERROR!
# Sepsis ___ klebsiella bacteremia/pyelonephritis 
# Leukopenia
# Pancytopenia

Secondary diagnoses
#ERROR!
# Acute on chronic anemia
# Neutropenia
# Coagulopathy
# Transaminitis 
# Urinary retention
# Non-anion gap metabolic acidosis
# Emphysema 
# HTN
# GERD
# HLD 
# Cataracts 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at the ___ 
___!  

Why was I admitted to the hospital?  
- You presented to an outside hospital with fevers and pain 
while urinating. They were concerned for an infection so checked 
your blood, urine and did a CT scan of your abdomen. Both your 
urine and blood grew a bacteria called Klebsiella and the CT 
scan showed the urinary tract infection spread to your left 
kidney. The bacteria was sensitive to several antibiotics. You 
were transferred here for further care.
- At ___, your blood cultures and urine cultures were negative 
because of the antibiotics you were on. We kept you on the 
antibiotic and you continued to do very well. You will be 
discharged on ciprofloxacin. 

What to do on discharge?
- Follow up with your hematologist. Your blood count showed your 
white blood cell count was a little low (lowest neutrophil count 
850). Today, it is 1500 which is more reassuring. 
- Follow up with vascular surgery within 1 week given your 
recent procedure. Follow up with your primary care doctor as 
well. 
- You have not smoked a cigarette since being admitted. 
Congratulations! We encourage you to stop smoking. Your CT scan 
showed some lung changes from your long term smoking. To prevent 
further damage, it is important you stop smoking. 
- Please get your blood work done on ___. These 
labs will be faxed to your primary care doctor.  
- New medications:
  Ciprofloxacin to treat your kidney infection or 
pyelonephritis, take 500mg every 12 hours for 10 more days. Your 
first dose will be tonight. End date is ___ morning dose. 
  Topical witch ___ pads for your hemorrhoids 
  Topical hydrocortisone cream for hemorrhoids 

Thank you for allowing us to be involved in your care, we wish 
you all the best!  

Sincerely,

Your ___ Healthcare Team  
 
Followup Instructions:
___